US06420365B1
N-({3-[(5-bromo-2-Methoxyphenyl)methyl]-6-(methylamino)(imidazolo[1,2-b]pyridazin-2-yl)}methyl)(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carboxamide
A solution of 130 mg (0.2 mmol) N-({3-[(5-bromo-2-methoxyphenyl)methyl]-6-chloro(imidazolo[1,2-b]pyridazin-2-yl)}methyl)(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carboxamide in DMSO (3 mL) is treated with 2M methyl amine in THF 1.5 mL (3.0 mmol). The reaction mixture is heated to 150° C. in a sealed tube for 18 hr and following cooling partitioned between ethyl acetate and water. The organic extract is washed with 5×10 mL water, dried over anhydrous MgSO4 and the solvent removed in vacuo to give the crude residue. The residue is prep-plate chromatographed (9% MeOH/CH2Cl2/0.5% NH4OH) to afford 31 mg (24%) of the title compound. Mass Spec m/z (M++1) 646.

reactant | N-({3-[(5-bromo-2-methoxyphenyl)methyl]-6-chloro(imidazolo[1,2-b]pyridazin-2-yl)}methyl)(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carboxamide | 0.2 mmol, 130 mg | BrC=1C=CC(=C(C1)CC1=C(N=C2N1N=C(C=C2)Cl)CN(C(=O)C2=C(C(=C(C=C2)OC)OC)Cl)CCC(C)C)OC | C29H31BrCl2N4O4
reactant | methyl amine | 2M | CN | CH5N
reactant | THF | 3.0 mmol, 1.5 mL | C1CCOC1 | C4H8O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | N-({3-[(5-bromo-2-Methoxyphenyl)methyl]-6-(methylamino)(imidazolo[1,2-b]pyridazin-2-yl)}methyl)(2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)carboxamide | 31 mg, 24% | BrC=1C=CC(=C(C1)CC1=C(N=C2N1N=C(C=C2)NC)CN(C(=O)C2=C(C(=C(C=C2)OC)OC)Cl)CCC(C)C)OC | C30H35BrClN5O4
